US04639441
Methyl 2-(4-hydroxy-4-methyl-1,3-dithiolan-2-ylidene)-2-(4-methylthio-2-azetidinon-1-yl)acetate (a mixture of two isomers)
A solution of butyllithium in hexane (1.35 ml, 1.63 mmoles/ml) was added to a solution of hexamethyldisilazane (387 μl) in tetrahydrofuran (5 ml) at room temperature, and the mixture was stirred for 30 minutes. The solution was cooled to -78° C. and a solution of methyl(4-methylthio-2-azetidinon-1-yl)acetate (189 mg) in tetrahydrofuran (3 ml) was added thereto, after which the mixture was stirred for 10 minutes. Carbon disulphide (84 μl) was added to the solution and the mixture was stirred for 1 hour. A solution of bromoacetone (153 mg) in tetrahydrofuran (2 ml) was added to the resulting mixture, which was then stirred at -78° C. for 2 hours. The reaction mixture was then diluted with acetic acid (100 μl) and ethyl acetate, washed successively with an aqueous solution of sodium chloride, an aqueous solution of sodium bicarbonate and again an aqueous solution of sodium chloride, after which it was dried over anhydrous sodium sulphate. The solvent was distilled off under reduced pressure and the resulting residue was purified by preparative thin layer chromatography (eluent: a 2:1 by volume mixture of benzene and ethyl acetate), to give 290 mg of the desired product as a foamy substance.

reactant | butyllithium | C(CCC)[Li]
reactant | hexamethyldisilazane | 387 μl | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methyl(4-methylthio-2-azetidinon-1-yl)acetate | 189 mg | COC(CN1C(CC1SC)=O)=O | C7H11NO3S
reactant | bromoacetone | 153 mg | BrCC(C)=O | C3H5BrO
reactant | Carbon disulphide | 84 μl | C(=S)=S | CS2
solvent | hexane | 1.63 mmoles/ml, 1.35 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 100 μl | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(4-hydroxy-4-methyl-1,3-dithiolan-2-ylidene)-2-(4-methylthio-2-azetidinon-1-yl)acetate | 290 mg | OC1(SC(SC1)=C(C(=O)OC)N1C(CC1SC)=O)C | C11H15NO4S3
